US07375134B2
In the presence of HATU (1 eq.) and diisopropylethylamine (4 eq.), (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid was coupled with aminoacetonitrile (2 eq., 1 eq. excess) to give (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid cyanomethylamide as a cream solid.

reactant | HATU | 1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 4 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid | BrC1=CC=C(C=C1)[C@@H](C=1SC=CN1)N[C@H](C(=O)O)CC(C)C | C16H19BrN2O2S
reactant | aminoacetonitrile | 2 eq. | NCC#N | C2H4N2
product | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid cyanomethylamide | C(#N)CNC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)Br)=O | C18H21BrN4OS
